US07235574B2
i) 1-(4-Bromo-butyl)-4-methoxy-benzene
After starting the Grignard reaction by adding 5.00 ml 4-bromoanisole to a mixture of 4.86 g (0.20 mol) magnesium turnings and 100 ml THF, 20.00 ml 4-bromoanisole (total: 25.0 ml (37.4 g; 0.20 mol) were added at a pace sufficient to maintain reflux temperature. The reaction mixture was heated to reflux for additional 3 h, cooled to r.t. and dropped at 0° C. within 1 h to a stirred solution prepared by mixing 129.6 g (71.6 ml, 0.60 mol) 1,4-dibromo-butane in 200 ml THF with a freshly prepared solution of 0.17 g (4.0 mmol) LiCl and 0.267 g (2.0 mmol) Cu(II)Cl2 in 20 ml THF. Stirring was continued for 12 h at r.t. followed by the addition of 100 ml of a 20% ammonium chloride solution and 200 ml ethyl acetate. The water phase was extracted twice with 50 ml ethyl acetate, all organic phases were combined, dried over sodium sulphate and evaporated. The resulting oil was fractionated by vacuum distillation. Yield: 27.7 g (57%), b.p. 112–115° C./0.15 mbar.

reactant | 4-bromoanisole | 5.00 ml | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | magnesium | 0.20 mol, 4.86 g | [Mg] | Mg
reactant | 4-bromoanisole | 20.00 ml | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | 1,4-dibromo-butane | 0.60 mol, 71.6 ml, 129.6 g | BrCCCCBr | C4H8Br2
reactant | LiCl | 4.0 mmol, 0.17 g | [Li+].[Cl-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-Bromo-butyl)-4-methoxy-benzene | BrCCCCC1=CC=C(C=C1)OC | C11H15BrO
